US08835420B2
2-Amino-4-(((1S)-1-(6-(3,5-dimethylisoxazol-4-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)-6-methylpyrimidine-5-carbonitrile
(1S)-1-(6-(3,5-Dimethylisoxazol-4-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine (107 mg, 0.395 mmol), 2-amino-4-chloro-6-methylpyrimidine-5-carbonitrile (100 mg, 0.593 mmol), and N-ethyl-N-isopropylpropan-2-amine (0.21 mL, 1.2 mmol) were combined in acetonitrile (6 mL). The reaction mixture was heated in a microwave reactor at 120° C. for 2 hours and then concentrated. The residue was taken up in DMF and purified by preparative HPLC (basic mode) eluting with 45% ACN in water. The fractions containing the desired product were combined and concentrated in vacuo to give the title compound (62 mg, 39%). 1H NMR (500 MHz, CD3OD) δ ppm 1.31-1.42 (m, 3 H), 2.01 (s, 2 H), 2.15 (s, 1 H), 2.19 (s, 1 H), 2.32 (d, J=4.39 Hz, 5 H), 3.86 (s, 3 H), 5.39-5.48 (m, 1 H), 6.65-6.69 (m, 1H), 7.59 (d, J=3.42 Hz, 1 H), 7.68-7.73 (m, 1 H); ESI-MS m/z [M+H]+ calc'd for C2H22N8O, 403; found 403.

reactant | (1S)-1-(6-(3,5-Dimethylisoxazol-4-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine | 0.395 mmol, 107 mg | CC1=NOC(=C1C=1C=C2C(=NC1[C@H](C)N)C=CN2C)C | C15H18N4O
reactant | 2-amino-4-chloro-6-methylpyrimidine-5-carbonitrile | 0.593 mmol, 100 mg | NC1=NC(=C(C(=N1)Cl)C#N)C | C6H5ClN4
reactant | N-ethyl-N-isopropylpropan-2-amine | 1.2 mmol, 0.21 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
product | 2-Amino-4-(((1S)-1-(6-(3,5-dimethylisoxazol-4-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)-6-methylpyrimidine-5-carbonitrile | 62 mg, 39% | NC1=NC(=C(C(=N1)N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)C=2C(=NOC2C)C)C#N)C | C21H22N8O
